US04092311
Ethyl 3-(5-methyl-6-phenyl-3-pyridazinyl)carbazate
A 10.0 g. portion of 5-methyl-6-phenyl-3-chloropyridazine, 10.02 g. of ethyl carbazate and 150 ml. of butyl alcohol are stirred at reflux for 4 hours. The reaction mixture is concentrated free of butyl alcohol and the concentrate is placed in cold water containing a small amount of ethyl and scratched. The resulting solid is filtered, washed with water, recrystallized from a mixture of chloroform and petroleum ether and dried in vacuo giving a white solid, mp 143°-145° C.

reactant | 5-methyl-6-phenyl-3-chloropyridazine | CC=1C=C(N=NC1C1=CC=CC=C1)Cl | C11H9ClN2
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
solvent | butyl alcohol | C(CCC)O | C4H10O
product | Ethyl 3-(5-methyl-6-phenyl-3-pyridazinyl)carbazate | CC=1C=C(N=NC1C1=CC=CC=C1)NNC(=O)OCC | C14H16N4O2
